data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2620,2903,[CH3:18][NH:19][C:20](=[O:21])[C:22](=[O+:23][C-:24]([C:25]([CH3:26])=[O:27])[C:28]([CH3:29])=[O:30])[c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]#[C:10][C:11]([CH3:12])([CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]2=[C:10]([C:11]([CH3:12])([CH3:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[C:22]([C:20]([NH:19][CH3:18])=[O:21])([c:31]1[cH:32][cH:33][cH:34][cH:35][cH:36]1)[O:23][C:24]2([C:25]([CH3:26])=[O:27])[C:28]([CH3:29])=[O:30],water,298.15,26.612079496649084,-32.642796540957605
1217,1326,[CH3:17][C:18](=[O:19])[C-:20]([CH3:21])[NH+:22]=[CH:23][C:24]#[N:25].[CH3:1][O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[O:8][CH3:9])=[C:10]([C:11]([CH3:12])=[O:13])[C:14]([CH3:15])=[O:16]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]([C:11]([CH3:12])=[O:13])([C:14]([CH3:15])=[O:16])[CH:23]([C:24]#[N:25])[NH:22][C:20]1([C:18]([CH3:17])=[O:19])[CH3:21],water,298.15,12.343302755968551,-14.61139349848492
852,922,[CH3:13][O:14][C:15](=[O:16])[C:17]([C:18]#[N:19])=[O+:20][C-:21]([CH3:22])[CH3:23].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:21]([CH3:22])([CH3:23])[O:20][C:17]2([C:15]([O:14][CH3:13])=[O:16])[C:18]#[N:19],water,298.15,21.240327929400955,-28.40731022664396
5020,5708,[CH3:10][C:11](=[O:12])[N-:13][N+:14]([CH3:15])=[C:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:16]([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)([c:23]2[cH:24][cH:25][cH:26][cH:27][cH:28]2)[N:14]([CH3:15])[N:13]1[C:11]([CH3:10])=[O:12],water,298.15,29.47504041848359,-6.586479670449696
1933,2143,[CH3:13][NH:14][C:15](=[O:16])[C:17](=[NH+:18][C-:19]([CH3:20])[C:21]#[N:22])[C:23](=[O:24])[O:25][CH3:26].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([C:23](=[O:24])[O:25][CH3:26])[NH:18][C:19]3([CH3:20])[C:21]#[N:22],water,298.15,13.854999630111276,-35.424853578117364
4524,5162,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[O+:15][N-:16][C:17](=[O:18])[O:19][CH3:20])[C:21]([CH3:22])=[O:23].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:16]([C:17](=[O:18])[O:19][CH3:20])[O:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:21]([CH3:22])=[O:23],water,298.15,14.024861988934124,-41.38698638910717
4267,4881,[CH3:9][C:10](=[O:11])[CH-:12][NH+:13]=[C:14]([C:15]([CH3:16])=[O:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[CH:12]([C:10]([CH3:9])=[O:11])[NH:13][C:14]1([C:15]([CH3:16])=[O:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,24.28473668166721,-9.968179193540053
1178,1280,[CH3:11][C:12](=[O:13])[C-:14]([C:15]([CH3:16])=[O:17])[N+:18]([CH3:19])=[C:20]([C:21]#[N:22])[C:23]#[N:24].[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][O:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:14]([C:12]([CH3:11])=[O:13])([C:15]([CH3:16])=[O:17])[N:18]([CH3:19])[C:20]2([C:21]#[N:22])[C:23]#[N:24],water,298.15,25.63125644992252,-14.307965101898027
3622,4141,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[CH:11]=[NH+:12][C-:13]([C:14]#[N:15])[C:16](=[O:17])[NH:18][CH3:19]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:13]([C:14]#[N:15])([C:16](=[O:17])[NH:18][CH3:19])[NH:12][CH:11]1[C:9]([NH:8][CH3:7])=[O:10],water,298.15,20.193908626751057,-16.64750768993968
1537,1697,[CH3:16][C:17](=[O:18])[C:19]#[N+:20][C-:21]([C:22]([CH3:23])=[O:24])[C:25]([CH3:26])=[O:27].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[NH:9][CH3:10])[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7](=[O:8])[NH:9][CH3:10])([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:21]([C:22]([CH3:23])=[O:24])([C:25]([CH3:26])=[O:27])[N:20]=[C:19]2[C:17]([CH3:16])=[O:18],water,298.15,29.0285043740182,-21.87866799556468
2153,2388,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([NH+:15]=[C:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[C:29](=[O:30])[O:31][CH3:32].[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][C:7]([CH3:8])=[O:9]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[C:16]([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)([c:23]2[cH:24][cH:25][cH:26][cH:27][cH:28]2)[NH:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:29](=[O:30])[O:31][CH3:32],water,298.15,16.199777921485936,-33.797606916312255
